US06603012B2
40.1. Preparation of (RS)-(E)-4-[3-(4,4-dimethyl-thiochroman-6-yl)-oct-1-enyl]-benzoic Acid
200 mg of (RS)-(E)-methyl 4-[3-(4,4-dimethyl-thiochroman-6-yl)-oct-1-enyl]-benzoate were dissolved in 10 ml THF/3 ml water/3 ml methanol and 200 mg of lithium hydroxide hydrate were added. The mixture was stirred at room temperature 4 hours. The mixture was diluted with 10 ml water and acidified to pH 2 with 1N hydrochloric. The resulting suspension was taken in 50 ml ether and the phases were separated. The aqueous phase was extracted with three portions of 25 ml ether. The combined extracts were dried over MgSO4. The solvent was removed in vacuo and the crude product was purified by flash chromatography (SiO2, 10% methanol/methylene chloride) followed by recrystalization from hexanes, yielding 185 mg of product as white solid. M.p. 146-146.5° C.

reactant | (RS)-(E)-methyl 4-[3-(4,4-dimethyl-thiochroman-6-yl)-oct-1-enyl]-benzoate | 200 mg | CC1(CCSC2=CC=C(C=C12)C(/C=C/C1=CC=C(C(=O)OC)C=C1)CCCCC)C | C27H34O2S
reactant | lithium hydroxide hydrate | 200 mg | O.[OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | (RS)-(E)-4-[3-(4,4-dimethyl-thiochroman-6-yl)-oct-1-enyl]-benzoic Acid | 185 mg | CC1(CCSC2=CC=C(C=C12)C(/C=C/C1=CC=C(C(=O)O)C=C1)CCCCC)C | C26H32O2S
